US07557213B2
To a solution of 0.060 g (0.216 mmol) of 3-(3,4-Dimethyl-benzoyl)-1H-[1,5]naphthyridin-4-one in 2.0 mL of N,N-dimethylformamide was added 10.4 mg (0.259 mmol, 60% dispersion in oil) of sodium hydride and the reaction was stirred for 5 min. 65 mg (0.259 mmol) of 2-bromo-6-bromomethyl-pyridine was added and the reaction was stirred at room temperature for 3 h. Water was added and the solid collected by filtration. The crude brown solid was purified on the reverse phase HPLC with a C18 column, gradient of 20-70% acetonitrile—0.1% TFA to yield 11.8 mg of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(3,4-dimethyl-benzoyl)-1H-[1,5]naphthyridin-4-one as an off white solid.

reactant | 3-(3,4-Dimethyl-benzoyl)-1H-[1,5]naphthyridin-4-one | 0.216 mmol, 0.060 g | CC=1C=C(C(=O)C2=CNC3=CC=CN=C3C2=O)C=CC1C | C17H14N2O2
reactant | sodium hydride | 0.259 mmol, 10.4 mg | [H-].[Na+]
reactant | 2-bromo-6-bromomethyl-pyridine | 0.259 mmol, 65 mg | BrC1=NC(=CC=C1)CBr | C6H5Br2N
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(3,4-dimethyl-benzoyl)-1H-[1,5]naphthyridin-4-one | 11.8 mg | BrC1=CC=CC(=N1)CN1C=C(C(C2=NC=CC=C12)=O)C(C1=CC(=C(C=C1)C)C)=O | C23H18BrN3O2
